US09029399B2
Preparation of Intermediate benzyl 4-(2-chloropyridin-4-yl)-3-oxo-2,4-diazabicyclo[3.1.0]hexane-2-carboxylate (I-30b)
Using analogous reagents and reaction conditions as described in Example 1 above, benzyl 3-oxo-2,4-diazabicyclo[3.1.0]hexane-2-carboxylate (200 mg, 0.861 mmol) was reacted with 2-chloro-4-iodopyridine (227 mg, 0.947 mmol), xantphos (45 mg, 0.077 mmol), Pd2(dba)3 (24 mg, 0.025 mmol), cesium carbonate (421 mg, 1.29 mmol) and 1,4-dioxane (12 mL) at 100° C. for 3 hours. Purification by column chromatography on silica gel (50% ethyl acetate in hexane) afforded 220 mg of the product (75% yield).

reactant | benzyl 3-oxo-2,4-diazabicyclo[3.1.0]hexane-2-carboxylate | 0.861 mmol, 200 mg | O=C1N(C2CC2N1)C(=O)OCC1=CC=CC=C1 | C12H12N2O3
reactant | 2-chloro-4-iodopyridine | 0.947 mmol, 227 mg | ClC1=NC=CC(=C1)I | C5H3ClIN
reactant | xantphos | 0.077 mmol, 45 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 1.29 mmol, 421 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.025 mmol, 24 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
product | benzyl 4-(2-chloropyridin-4-yl)-3-oxo-2,4-diazabicyclo[3.1.0]hexane-2-carboxylate | 220 mg, 75% yield | ClC1=NC=CC(=C1)N1C(N(C2CC12)C(=O)OCC1=CC=CC=C1)=O | C17H14ClN3O3
